US05958927
Step 1: 4-(2,3-Dihydro[1,4]benzodioxin-5-yl)pyridine
14.7 mmol of diethyl(pyrid-4-yl)borane, 22 mmol of 5-bromo-2,3-dihydro[1,4]-benzodioxine, 44.1 mol of KOH in powder form, 7.4 mmol of tetrabutylammonium bromide and 0.74 mmol of tetrakis(triphenylphosphine)palladium in 75 ml of tetrahydrofuran are mixed at room temperature, and the mixture is then refluxed for 24 hours. 225 ml of ethyl acetate are added and the mixture is washed with a saturated sodium chloride solution. Drying is carried out over MgSO4, followed by evaporation and purification over a silica column (eluant CH2Cl2, then CH2Cl2 /CH3COOC2H5 80/20).

reactant | diethyl(pyrid-4-yl)borane | 14.7 mmol | C(C)B(C1=CC=NC=C1)CC | C9H14BN
reactant | 5-bromo-2,3-dihydro[1,4]-benzodioxine | 22 mmol | BrC1=CC=CC=2OCCOC21 | C8H7BrO2
reactant | KOH | 44.1 mol | [OH-].[K+]
reactant | ethyl acetate | 225 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetrabutylammonium bromide | 7.4 mmol | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.74 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2,3-Dihydro[1,4]benzodioxin-5-yl)pyridine | O1CCOC2=C1C=CC=C2C2=CC=NC=C2 | C13H11NO2
